US07897817B2
In an ambient pressure oxygen atmosphere, 26.4 mg of cyclooctanol and 34.1 mg of the platinum catalyst obtained in Example 1 were agitated for twelve hours at 60° C. in 2 ml of water. The reaction mixture was subsequently extracted using ethyl acetate, and the organic layer was dried using magnesium sulfate, filtered and concentrated to obtain 22.6 mg (87% yield) of cyclooctanone. The reaction equation and the analytical results of the product are shown below.

reactant | oxygen | O=O | O2
reactant | cyclooctanol | 26.4 mg | C1(CCCCCCC1)O | C8H16O
catalyst | platinum | 34.1 mg | [Pt] | Pt
solvent | water | 2 ml | O | H2O
product | cyclooctanone | 22.6 mg, 87% yield | C1(CCCCCCC1)=O | C8H14O
